US07667041B2
A 1 N aqueous solution of sodium hydroxide (0.8 mL) was added to a solution of a solution of methyl (E)-(4-fluorophenyl)-(3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)-2-oxopiperidin-1-yl)acetate synthesized by the method described in Example 924 (74 mg) in methanol (3 mL), and the reaction solution was stirred at room temperature for 13 hours. 2 N hydrochloric acid (0.4 mL) was added to the reaction solution, and the reaction solution was concentrated under reduced pressure to obtain 72 mg of crude (E)-(4-fluorophenyl)-(3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)-2-oxopiperidin-1-yl)acetic acid. HOBT (16 mg) and EDC (23 mg) were added to a solution of the resulting crude (E)-(4-fluorophenyl)-(3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)-2-oxopiperidin-1-yl)acetic acid (36 mg) and methylamine (2M THF solution, 0.4 mL) in DMF (3 mL), and the reaction solution was stirred at room temperature for 5 hours. Saturated sodium bicarbonate water and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The resulting organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Carrier: Chromatorex™ NH, elution solvent:ethyl acetate→ethyl acetate:methanol=9:1) to obtain 32 mg of the title compound. The physical properties of the compound are as follows.

reactant | sodium hydroxide | 0.8 mL | [OH-].[Na+]
reactant | methyl (E)-(4-fluorophenyl)-(3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)-2-oxopiperidin-1-yl)acetate | FC1=CC=C(C=C1)C(C(=O)OC)N1C(/C(/CCC1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C26H26FN3O4
reactant | hydrochloric acid | 2 N, 0.4 mL | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | (E)-(4-fluorophenyl)-(3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)-2-oxopiperidin-1-yl)acetic acid | 72 mg | FC1=CC=C(C=C1)C(C(=O)O)N1C(/C(/CCC1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C25H24FN3O4
